### PR TITLE
[Merged by Bors] - feat(Data/Finsupp/Order): `{emb,map}Domain` preserve pairwise order

### PR DESCRIPTION
**Pull request by Hagb**
`embDomain`, and thus also `mapDomain` by an injective map, preserve pairwise order.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finsupp/Order.lean [hunk 1]
```diff
@@ -91,6 +91,45 @@ lemma sum_le_sum_index [DecidableEq ι] {f₁ f₂ : ι →₀ α} {h : ι → 
...
+    (f : ι ↪ κ) (g₁ g₂ : ι →₀ α) : g₁.embDomain f ≤ g₂.embDomain f ↔ g₁ ≤ g₂ := by
+  constructor
+  · rw [Finsupp.le_def]
+    intro h' x
+    simpa [Finsupp.embDomain_apply] using h' (f x)
+  intro h
+  simp [Finsupp.le_def, embDomain_apply, apply_dite₂, Finsupp.le_def.mp h]
+
+lemma embDomain_mono [Preorder α] (f : ι ↪ κ) : Monotone (embDomain f : (ι →₀ α) → (κ →₀ α)) :=
+  fun _ _↦ (embDomain_le_embDomain_iff_le f _ _).mpr
```
Comment (joneugster) [inline Mathlib/Data/Finsupp/Order.lean]:
```suggestion
  fun _ _ ↦ (embDomain_le_embDomain_iff_le f _ _).mpr
```

File: Mathlib/Data/Finsupp/Order.lean [hunk 2]
```diff
@@ -91,6 +91,45 @@ lemma sum_le_sum_index [DecidableEq ι] {f₁ f₂ : ι →₀ α} {h : ι → 
   exact Finset.sum_le_sum fun i hi ↦ hh _ hi <| hf _
 
 end Preorder
+
+section EmbDomain
+
+variable {ι : Type*} {κ : Type*} {α : Type*} [Zero α]
+
```
Comment (joneugster) [inline Mathlib/Data/Finsupp/Order.lean]:
```suggestion
```

seems not to be needed?

File: Mathlib/Data/Finsupp/Order.lean [hunk 3]
```diff
@@ -91,6 +91,45 @@ lemma sum_le_sum_index [DecidableEq ι] {f₁ f₂ : ι →₀ α} {h : ι → 
...
+@[gcongr]
+lemma embDomain_lt_embDomain_iff_lt [Preorder α] (f : ι ↪ κ) (g₁ g₂ : ι →₀ α) :
+    g₁.embDomain f < g₂.embDomain f ↔ g₁ < g₂ := by
+  simp [lt_iff_le_not_ge, embDomain_le_embDomain_iff_le]
+
+end EmbDomain
+
+section MapDomain
+
+variable {ι : Type*} {κ : Type*} {α : Type*} [AddCommMonoid α]
```
Comment (joneugster) [inline Mathlib/Data/Finsupp/Order.lean]:
```suggestion
end Zero

section MapDomain

variable [AddCommMonoid α]
```

File: Mathlib/Data/Finsupp/Order.lean [hunk 4]
```diff
@@ -91,6 +91,45 @@ lemma sum_le_sum_index [DecidableEq ι] {f₁ f₂ : ι →₀ α} {h : ι → 
...
+    (g₁ g₂ : ι →₀ α) : g₁.mapDomain f ≤ g₂.mapDomain f ↔ g₁ ≤ g₂ := by
+  simpa [Finsupp.embDomain_eq_mapDomain] using Finsupp.embDomain_le_embDomain_iff_le ⟨f, h⟩ g₁ g₂
+
+lemma mapDomain_lt_mapDomain_iff_lt [Preorder α] {f : ι → κ} (h : f.Injective)
+    (g₁ g₂ : ι →₀ α) : g₁.mapDomain f < g₂.mapDomain f ↔ g₁ < g₂ := by
+  simpa [Finsupp.embDomain_eq_mapDomain] using Finsupp.embDomain_lt_embDomain_iff_lt ⟨f, h⟩ g₁ g₂
+
+end MapDomain
+
 end Zero
```
Comment (joneugster) [inline Mathlib/Data/Finsupp/Order.lean]:
```suggestion
```

File: Mathlib/Data/Finsupp/Order.lean [hunk 5]
```diff
@@ -91,6 +91,45 @@ lemma sum_le_sum_index [DecidableEq ι] {f₁ f₂ : ι →₀ α} {h : ι → 
...
+    g₁.embDomain f < g₂.embDomain f ↔ g₁ < g₂ := by
+  simp [lt_iff_le_not_ge, embDomain_le_embDomain_iff_le]
+
+end EmbDomain
+
+section MapDomain
+
+variable {ι : Type*} {κ : Type*} {α : Type*} [AddCommMonoid α]
+
+lemma mapDomain_le_mapDomain_iff_le [LE α] [@Std.Refl α LE.le] {f : ι → κ} (h : f.Injective)
```
Comment (joneugster) [inline Mathlib/Data/Finsupp/Order.lean]: The `[@Std.Refl α LE.le]` seems a bit odd to me. Shouldn't there be a way that this can by synthesised from `[LE α]`?

**Review by joneugster — COMMENTED** [review]
Thank you for the PR.

The addings seem resonable to me! Besides cleaning up the `variables` my only question is about `@Std.Refl`, see below

File: Mathlib/Data/Finsupp/Order.lean (hunk 5 above)
Comment (Hagb) [reply Mathlib/Data/Finsupp/Order.lean]: Thank you for your review!

[`LE`](https://leanprover-community.github.io/mathlib4_docs/find/?pattern=LE#src) contains only a relation but not other property like reflexivity of it.
```lean4
class LE (α : Type u) where
  le : α → α → Prop
```
And `Preorder` does provide `Std.Refl`, while stronger than necessary here. (I haven't seen a type with `LE` instance but without `Preorder` though.)

`Std.Refl` seems the standard typeclass for reflexive relation, and I didn't find a typeclass for reflexive `LE.le`. I searched on mathlib and found [a few](https://github.com/leanprover-community/mathlib4/blob/83a9b27e0dc0ec30e3829b4271a48dfcae8d3e34/Mathlib/Order/RelClasses.lean#L641-L643) `@Std.Refl α (· ≤ ·)` but not ``@Std.Refl α LE.le``.

~~Should I use `@Std.Refl α (· ≤ ·)` instead?~~ edit: I've done so.

Comment (joneugster) [reply Mathlib/Data/Finsupp/Order.lean]: You're right, I confused myself what `LE` actually is. Either version is fine, thanks!

**Review by joneugster — APPROVED** [review]
Thank you for the PR and for applying the suggestions!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
